US06069176
Raney nickel (0.5 g) was added to a solution of 3-(3-methoxyphenyl)cyclohexanone (2.05 g) and (S)-1-phenylethylamine (1.22 g) in ethanol (20 ml) prior to room temperature stirring and hydrogen addition. After the starting materials were consumed, the catalyst was filtered off, and the filtrate was distilled off under reduced pressure to produce a light yellow oily substance which was then separated and purified by silica gel column chromatography (chloroform:methanol=50:1) to give 1.62 g of N-[3-(3-methoxyphenyl) cyclohexyl]-N-(1-phenylethyl)amine (a mixture of trans-H form and trans-L form) (52.5% yield). The proportion of trans form to cis form with this reaction was about 12 to 1 (confirmed by HPLC) . Repeated column chromatography enabled separation of trans-H and trans-L.

reactant | 3-(3-methoxyphenyl)cyclohexanone | 2.05 g | COC=1C=C(C=CC1)C1CC(CCC1)=O | C13H16O2
reactant | (S)-1-phenylethylamine | 1.22 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[3-(3-methoxyphenyl) cyclohexyl]-N-(1-phenylethyl)amine | 1.62 g, 52.5% yield | COC=1C=C(C=CC1)C1CC(CCC1)NC(C)C1=CC=CC=C1 | C21H27NO
